US06797718B2
2,3-dimethyl-5-nitro-6-phenoxy-N-[2-(3-pyridin-3-ylpropoxy)ethyl]pyridin-4-amine
2-Methoxyethyl ether (diglyme) (50 ml) and sodium hydride (60% in oil) (5.77 g) were combined. Under a nitrogen atmosphere, a solution of phenol (13.58 g) and diglyme (250 ml) was added slowly over 10 minutes to allow for controlled gas evolution. 2-chloro-5,6-dimethyl-3-nitro-N-[2-(3-pyridin-3-ylpropoxy)ethyl]pyridin-4-amine (35.1 g) from Part A was then added and the reaction mixture was heated to 90° C. After 1.25 hours, the reaction mixture clouded and the temperature was increased to 110° C. After an additional 3.75 hours, HPLC and TLC analysis indicated the reaction was complete. The reaction mixture was cooled and the solvent was removed under reduced pressure. The resulting oil was dissolved in ethyl acetate and washed once with 20% potassium hydroxide, once with 1N potassium hydroxide, 3 times with water, and 3 times with brine. The combined organic layers were dried with magnesium sulfate and concentrated under reduced pressure. The residue was purified by flash chromatography over silica, eluting with 90/10 ethyl acetate/hexane. The fractions containing purified product were concentrated under reduced pressure and dried under vacuum at 70° C. overnight. NMR analysis of the resulting yellow oil indicated sufficient purity for use of the product in the next step.

reactant | sodium hydride | 5.77 g | [H-].[Na+]
reactant | phenol | 13.58 g | C1(=CC=CC=C1)O | C6H6O
reactant | 2-chloro-5,6-dimethyl-3-nitro-N-[2-(3-pyridin-3-ylpropoxy)ethyl]pyridin-4-amine | 35.1 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])NCCOCCCC=1C=NC=CC1)C)C | C17H21ClN4O3
solvent | diglyme | 250 ml | COCCOCCOC | C6H14O3
solvent | 2-Methoxyethyl ether | 50 ml | COCCOCCOC | C6H14O3
product | 2,3-dimethyl-5-nitro-6-phenoxy-N-[2-(3-pyridin-3-ylpropoxy)ethyl]pyridin-4-amine | CC1=NC(=C(C(=C1C)NCCOCCCC=1C=NC=CC1)[N+](=O)[O-])OC1=CC=CC=C1 | C23H26N4O4
